US08420816B2
STEP A: (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
A mixture of sodium triacetoxyborohydride (104 mg, 0.493 mmol) and (R)-2-amino-N-cyclopentyl-3-hydroxy-3-methylbutanamide (49.4 mg, 0.246 mmol) in DCE (2 mL) was stirred at room temperature for 30 min. 1-tert-Butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (75 mg, 0.246 mmol) was added and the reaction mixture was stirred at room temperature for 1 h. Following reaction, the mixture was concentrated to afford the title compound. [M+H] calc'd for C25H36N4O6, 489; found, 489.3.

reactant | sodium triacetoxyborohydride | 0.493 mmol, 104 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (R)-2-amino-N-cyclopentyl-3-hydroxy-3-methylbutanamide | 0.246 mmol, 49.4 mg | N[C@@H](C(=O)NC1CCCC1)C(C)(C)O | C10H20N2O2
reactant | 1-tert-Butyl 3-methyl 4-formyl-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.246 mmol, 75 mg | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | (R)-1-tert-butyl 3-methyl 4-((1-(cyclopentylamino)-3-hydroxy-3-methyl-1-oxobutan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC([C@@H](C(C)(C)O)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)=O | C25H36N4O6
